US08859569B2
8-(2-Fluorobenzyl)imidazo[1,5-a]pyrimidine-6-carboximidamide
Under argon atmosphere, 6.98 g (32.30 mmol) of sodium methylate (25% solution in methanol) was put in 50 ml methanol and 8.000 g (30.76 mmol) of 8-(2-fluorobenzyl)imidazo[1,5-a]pyrimidine-6-carbonitrile dissolved in 40 ml of absolute methanol was added. The reaction mixture was stirred for 1 h at RT. 7.205 g (119.98 mmol) of acetic acid and 1.975 g (36.92 mmol) of ammonium chloride were added and the mixture was stirred for 2 h at 50° C. The reaction mixture was concentrated by evaporation and the residue was distributed between 150 ml water and 100 ml ethyl acetate. The aqueous phase was made basic (pH=10) with 2N sodium hydroxide solution and the phases were stirred for 1 h at RT. Water was added and it was extracted three times with ethyl acetate. The combined organic phases were dried over sodium sulphate, concentrated by evaporation and the residue was dried under high vacuum. 7.53 g (purity 73%, 66% of theor.) of the target compound was obtained.

reactant | sodium methylate | 32.30 mmol, 6.98 g | C[O-].[Na+]
reactant | 8-(2-fluorobenzyl)imidazo[1,5-a]pyrimidine-6-carbonitrile | 30.76 mmol, 8.000 g | FC1=C(CC=2N=C(N3C2N=CC=C3)C#N)C=CC=C1 | C14H9FN4
reactant | acetic acid | 119.98 mmol, 7.205 g | C(C)(=O)O | C2H4O2
reactant | ammonium chloride | 36.92 mmol, 1.975 g | [Cl-].[NH4+]
solvent | methanol | 50 ml | CO | CH4O
solvent | methanol | 40 ml | CO | CH4O
product | 8-(2-Fluorobenzyl)imidazo[1,5-a]pyrimidine-6-carboximidamide | FC1=C(CC=2N=C(N3C2N=CC=C3)C(N)=N)C=CC=C1 | C14H12FN5
